### PR TITLE
Move Data.Monads.ListMonad to Data.List

### LINKED ISSUE #121: Duplicate Monad List instances
One is in https://github.com/coq-community/coq-ext-lib/blob/master/theories/Data/Monads/ListMonad.v and one is in https://github.com/coq-community/coq-ext-lib/blob/master/theories/Data/List.v#L1-L123, and they're differently polymorphic.

(We noticed while wondering with @Janno whether ext-lib suffers from https://gitlab.mpi-sws.org/iris/stdpp/-/issues/80, and whether that causes https://github.com/MetaCoq/metacoq/issues/580, but I'm not sure either way; at least `ListMonad.v` looks suspicious — and  https://github.com/MetaCoq/metacoq/issues/580#issuecomment-1011378998 discusses the universe problem).

### PR DESCRIPTION
**Pull request by liyishuai**
Resolve #121

### CODE REVIEW

File: theories/Data/List.v [hunk 1]
```diff
@@ -120,10 +120,16 @@ Global Instance Traversable_list@{} : Traversable list :=
 
 Monomorphic Universe listU.
 
-Global Instance Monad_list@{} : Monad@{listU listU} list :=
-{ ret  := fun _ x => x :: nil
-; bind := fun _ _ x f =>
-  List.fold_right (fun x acc => f x ++ acc) nil x
+Global Instance Monad_list : Monad list :=
```
Comment (Blaisorblade) [inline theories/Data/List.v:123]: Stupid question but why make this instance less polymorphic? The simpler one certainly suffers from https://gitlab.mpi-sws.org/iris/stdpp/-/issues/80.

Comment (liyishuai) [reply theories/Data/List.v:123]: Oh I should have used the original type signature and only change the `bind` definition.

File: theories/Data/List.v [hunk 2]
```diff
@@ -123,7 +123,14 @@ Monomorphic Universe listU.
...
 { ret  := fun _ x => x :: nil
 ; bind := fun _ _ x f =>
-  List.fold_right (fun x acc => f x ++ acc) nil x
+  flat_map f x
+}.
+
+Global Instance MonadZero_list : MonadZero list :=
+{ mzero := @nil }.
+
+Global Instance MonadPlus_list : MonadPlus list :=
```
Comment (Blaisorblade) [inline theories/Data/List.v:132]: Somebody who understands universes might want to figure out how to write these two instances to avoid universe problems... OTOH Traversable_list has the same problem? Worth bothering?

Comment (Blaisorblade) [reply theories/Data/List.v:132]: We discussed this with @Janno, but that doesn't seem to work with TC search. It seems you'd have to patch, dunno, TC search (or unification) to do eta-expansion, then fix all the breakage. I'm extrapolating from stdpp:
1. TC search only learned eta in 8.15 (https://github.com/coq/coq/pull/14732); in stdpp we also get a bunch of more boring failures to fix somehow because other tactics don't respect eta, but I assume they'd be fixable.
2. Even then, the call sites are still searching for `Monad list`/`FMap list`, and apparently `list` is what's output.

For instance, here's how `interleave` looks with Coq 8.15+rc1 in stdpp, in an eta-expansion attempt:
https://gitlab.mpi-sws.org/Blaisorblade/stdpp/-/blob/eta-expand-list/theories/list.v#L272-276.
Note `@fmap list`.

```
interleave = 
fix interleave (A : Type@{interleave.u0}) (x : A) (l : list A) {struct l} :
	list (list A) :=
  match l return (list (list A)) with
  | nil => @cons (list A) (@cons A x (@nil A)) (@nil (list A))
  | cons y l0 =>
      @cons (list A) (@cons A x (@cons A y l0))
        (@fmap list list_fmap (list A) (list A) (@cons A y)
           (interleave A x l0))
  end
  ```

Comment (JasonGross) [reply theories/Data/List.v:132]: What about forcing eta-expansion at the call-site?
```coq
Require Import Coq.Classes.Morphisms.
Class FMap (M : Type -> Type) := fmap : forall {A B}, (A -> B) -> M A -> M B.
Global Arguments fmap {_ _ _ _} _ !_ / : assert.
Global Instance: Params (@fmap) 4 := {}.
Global Hint Mode FMap ! : typeclass_instances.
Infix "<$>" := (@fmap (match _ with M => fun T => M T end) _ _ _) (at level 61, left associativity).
Require Import Coq.Lists.List.
Import ListNotations.
Open Scope list_scope.
Notation "( x ::.)" := (cons x) (only parsing) : list_scope.
Axiom fmap_list : FMap (fun T => list T).
Existing Instance fmap_list.
Fixpoint interleave {A} (x : A) (l : list A) : list (list A) :=
  match l with
  | [] => [[x]]| y :: l => (x :: y :: l) :: ((y ::.) <$> interleave x l)
  end.
Set Printing All.
Print interleave.
(* interleave =
fix interleave (A : Type) (x : A) (l : list A) {struct l} : list (list A) :=
  match l return (list (list A)) with
  | nil => @cons (list A) (@cons A x (@nil A)) (@nil (list A))
  | cons y l0 =>
      @cons (list A) (@cons A x (@cons A y l0))
        (@fmap (fun T : Type => list T) fmap_list
           (list A) (list A) (@cons A y) (interleave A x l0))
  end
     : forall (A : Type) (_ : A) (_ : list A), list (list A)
*)
```
You could even add an eta-contraction instance like
```coq
Hint Extern 10 (FMap (fun T => ?M T)) => change (fun T => M T) with M : typeclass_instances.
```
to allow allow non-eta-expanded instances to trigger.

Comment (JasonGross) [reply theories/Data/List.v:132]: Btw, the `(match _ with M => fun T => M T end)` is a trick for writing `fun T => _ T` in a way that forbids `T` from occurring in the `_`

Comment (Blaisorblade) [reply theories/Data/List.v:132]: @JasonGross You're braver than I for trying. Doing this for `FMap` doesn't break until 50% in `stdpp.list` (need to update tactics matching over the goal), so this is not totally impossible. I wonder what stdpp folks think but they seem busy.

Comment (Blaisorblade) [reply theories/Data/List.v:132]: Since people can write (partially applied instances of) `fmap` (and they in fact must sometimes), we might need an eta-_expanding_ hint instead, something like (untested):
```coq
Hint Extern 10 (FMap ?M) => progress (change M with (fun T => M T); cbv beta) : typeclass_instances.
```
where `cbv beta` would hopefully beta-reduce duplicate eta-expansions.

Comment (JasonGross) [reply theories/Data/List.v:132]: @Blaisorblade That seems backwards to me.  If ever `FMap list` appears in any Coq code, then we run the risk of universe inconsistencies.  (If we make `FMap` universe polymorphic then things might be a bit better, I'm not sure.)  And such hints are not needed for non-inductive-family monads, which need not be eta-expanded in the first place.  Instead, we should make sure that even partially applied instances are eta-expanded.  Can you show me an example where partially applied `fmap` occurs such that it results in an `fmap list` obligation?

Comment (Blaisorblade) [reply theories/Data/List.v:132]: Caveat: I'm replying with stdpp even if we're here (so @ralfjung and @robbertkrebbers might miss this), and details might vary in ext-lib.

> That seems backwards to me. If ever FMap list appears in any Coq code, then we run the risk of universe inconsistencies.

Agreed, I was trying to eta-expand those during search, but that doesn't seem to work.

> And such hints are not needed for non-inductive-family monads, which need not be eta-expanded in the first place.

What do you mean, all monads are type constructors? I assumed your hint was for backward compatibility with `FMap tconst` instances that weren't migrated (maybe with the hope that if `tconst` is less common it won't create problems?).

> Can you show me an example where partially applied fmap occurs such that it results in an FMap list obligation?

First, today `fmap f xs` and `f <$> xs` are both in use, and people use all sorts of partial applications of `fmap` so that making it a notation is pretty invasive. Partial applications include instances of `Proper` and of TCs like `Inj` etc.
Some examples:

```
(* Neither hint makes a difference,  *)
Global Hint Extern 10 (FMap (fun T => ?M T)) => change (fun T => M T) with M : typeclass_instances.
Global Hint Extern 10 (FMap ?M) => progress (change M with (fun T => M T); cbv beta) : typeclass_instances.

Global Instance option_fmap_equiv_inj `{Equiv A, Equiv B} (f : A → B) :
  Inj (≡) (≡) f → Inj (≡@{option A}) (≡@{option B}) (fmap f).
Proof. intros ? [x1|] [x2|]; inversion 1; subst; constructor; by apply (inj _). Qed.
About option_fmap_equiv_inj .
(*
option_fmap_equiv_inj :
forall {A : Type@{option_fmap_equiv_inj.u0}} {H : Equiv A}
  {B : Type@{option_fmap_equiv_inj.u1}} {H0 : Equiv B} 
  (f : forall _ : A, B) (_ : @Inj A B (@equiv A H) (@equiv B H0) f),
@Inj (option A) (option B) (@equiv (option A) (@option_equiv A H))
  (@equiv (option B) (@option_equiv B H0)) (@fmap option option_fmap A B f)

option_fmap_equiv_inj is not universe polymorphic
Arguments option_fmap_equiv_inj {A}%type_scope {H} 
  {B}%type_scope {H0} f%function_scope _ x y _
option_fmap_equiv_inj is opaque
Expands to: Constant option.option_fmap_equiv_inj 
*)
```

also:
```
Lemma list_fmap_ext (g : A → B) (l1 l2 : list A) :
    (∀ x, f x = g x) → l1 = l2 → fmap f l1 = fmap g l2. (* full application but without using notation *) 
...

Global Instance set_fmap_proper {A B} :
    Proper (pointwise_relation _ (=) ==> (≡) ==> (≡)) (@fmap M _ A B). 
...

Ltac fold_classes :=
  repeat match goal with
  | |- context [ ?F ] =>
    progress match type of F with
    | FMap _ =>
       change F with (@fmap _ F); 
...  
  Global Instance map_fmap_equiv_inj `{Equiv B} (f : A → B) :
    Inj (≡) (≡) f → Inj (≡@{M A}) (≡@{M B}) (fmap f).
  Proof.
    intros ? m1 m2 Hm i. apply (inj (fmap (M:=option) f)).
    rewrite <-!lookup_fmap. by apply Hm.
  Qed.
```

Comment (JasonGross) [reply theories/Data/List.v:132]: I believe I saw some way that ssrfun got notations for both `id` and `@id`  We should be able to do something like
```
Notation fmap := (@fmap (match _ with M => fun T => M T end)).
Notation "@ 'fmap' M` := (@fmap (fun T => M T)).
```
or similar?  This won't work for qualified explicit applications, but hopefully everyone uses fmap unqualified?

Comment (JasonGross) [reply theories/Data/List.v:132]: > What do you mean, all monads are type constructors?

All monads are type constructors in the sense of being functions from Type to Type, but `fun T => nat -> T` isn't an inductive type family.  Nor is `@id Type`.  Neither of these suffers from template polymorphism issues.  Similarly, if someone does `Definition M T := T * T.`, there won't be any template issues from using `M` without eta expanding.

Comment (Blaisorblade) [reply theories/Data/List.v:132]: > if someone does Definition M T := T * T., there won't be any template issues from using M without eta expanding.

Re notations people also write `fmap (M := ...)` but I can imagine ways out. Honestly, I'm both impressed and scared.

But taking a step back, all of this rounds up to "porting stdpp and Iris is likely possible but time-consuming and invasive", and I'm not sure @robbertkrebbers @ralfjung and others would go for this, rather than hope to switch to universe-polymorphic containers. So this thread could continue in https://gitlab.mpi-sws.org/iris/stdpp/-/issues/80 or https://mattermost.mpi-sws.org/iris/ for those, and (I propose) in https://github.com/coq-community/coq-ext-lib/issues/124 for ext-lib, which will have different problems I'm less familiar with.

Comment (liyishuai) [reply theories/Data/List.v:132]: Are there changes I need to make here, or is this PR ready to merge?

Comment (Blaisorblade) [reply theories/Data/List.v:132]: The above task should IMHO not block this MR and is tracked by #124, so LGTM. Thanks for tolerating this digression here 😅
